Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dicloxacillin / lisinopril / Simvastatin / Tramadol / 
Fluvastatin / Lescol
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with a history of HTN and T2DM who is 
presenting with chest pain for the last ___ days. The chest pain 
is assoiciated with shortness of breath and 1 episode of PND. 
The chest pain is well localized to the left chest, ___ in 
intensity, heavy/tight in quality and associated with left arm 
tightness. No radiation of pain to back. The patient has not 
tried any medication specifically for this pain. The pain does 
not get worse with exertion. He had a very similar pain before 
in ___. He denies diaphoresis, orthopnea and edema. He 
denies cough, hemoptysis, lower extremity edema/pain/erythema. 
No recent bed rest. Pain does not get worse with reclining or 
various foods.
In the ED, initial vitals were 98.9 74 139/92 18 97%. EKG showed 
NSR without any ST/Twave changes. He ruled out for MI with 
serial troponins. A persantine MIBI was performed which showed 
normal myocardial perfusion but a diffuse global hypokinesis 
with LVEF of 40% which is new. He was given 20mg of IV lasix and 
then admitted to the cardiology service for further workup up of 
new CHF.
On arrival to the floor, patient was stable, complaining of 
chest pain with palpation of his left pectoralis.
REVIEW OF SYSTEMS:
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, cough, hemoptysis, black stools or red stools. 
He denies recent fevers, chills or rigors. He denies exertional 
buttock or calf pain. All of the other review of systems were 
negative.
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.
 
Past Medical History:
-Cardiac History: None
-Type 2 diabetes c/b nephropathy, retinopathy, and neuropathy
-Hypertension
-Erectile Dysfunction
-Possible Reactive Arthritis, followed by rheumatology
-Cervical disk disease
-Lower back pain
-Advanced ankle arthritis
-Colon polyps
-Pneumothorax in ___ right lobectomy
 
Social History:
___
Family History:
No history of premature CAD, MI. Multiple family members with
DM.
 
Physical Exam:
ADMISSION EXAM:
VS: T 97.6, BP 147/85, HR 92, RR 16, SpO2 98RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
NECK: Supple with JVP of 10 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.
LUNGS: . Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal. Gait not tested.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+

DISCHARGE EXAM:
VS: T 98.2, BP 142/86, HR 61, RR 20, SpO2 98RA
107.3kg
8hr I:O -/500
GENERAL: NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
NECK: Supple with JVP of 7 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.
LUNGS: . Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal. Gait not tested.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
 
Pertinent Results:
ADMISSION LABS:
___ 09:32PM BLOOD WBC-5.7 RBC-5.03 Hgb-14.4 Hct-42.4 
MCV-84# MCH-28.7 MCHC-34.1 RDW-14.1 Plt ___
___ 09:32PM BLOOD Glucose-186* UreaN-16 Creat-0.7 Na-140 
K-3.6 Cl-103 HCO3-28 AnGap-13
___ 09:32PM BLOOD ___ PTT-27.2 ___
___ 09:32PM BLOOD cTropnT-<0.01
___ 03:20AM BLOOD cTropnT-<0.01
___ 08:45AM BLOOD CK-MB-3 cTropnT-<0.01 proBNP-10
___ 09:32PM BLOOD Calcium-9.4 Phos-2.9 Mg-1.9
___ 08:45AM BLOOD VitB12-233* Ferritn-168
___ 08:45AM BLOOD TSH-3.0
___ 08:45AM BLOOD ___

DISCHARGE LABS:
___ 08:45AM BLOOD WBC-5.8 RBC-5.49 Hgb-15.6 Hct-46.5 MCV-85 
MCH-28.5 MCHC-33.6 RDW-14.0 Plt ___
___ 08:45AM BLOOD Glucose-188* UreaN-20 Creat-0.8 Na-140 
K-4.2 Cl-101 HCO3-29 AnGap-14
EKG ___:
Sinus rhythm. Non-specific ST segment flattening in the limb 
leads. Compared
to the previous tracing of ___ ventricular ectopy has 
resolved.
Depolarization and repolarization patterns are similar, after 
accounting for
differences in the precordial electrode placement.

___
___
CXR ___:
The lungs are low in volume, but clear.  The cardiomediastinal 
silhouette,
hilar contours, and pleural surfaces are normal.  No pleural 
effusion or
pneumothorax is present.
 
IMPRESSION:
No acute intrathoracic process.
STRESS MIBI:
INTERPRETATION: This was a ___ year old DM2 man with HTN and a 
low
pre-test probability for ischemia, who was referred to the lab 
from the
ED after negative serial cardiac markers for an evaluation of 
atypical
chest tightness and palpitations. Due to his inability to 
ambulate on
the treadmill due to dizziness and unsteady gait, the study was
converted to Pharmacological/mibi. He received 0.142mg/kg/min of 
IV
Persantine infused over 4 minutes. He denied any chest, arm, 
neck or
back discomfort throughout the infusion or in recovery. There 
were no
changes in ST segments or T waves noted throughout the study. 
The rhythm
was sinus with intermittent bouts of frequent single PVC's seen
throughout. There was marked hypertension at rest with an 
appropriate
drop in blood pressure with the Persantine infusion. At 2 
minutes post
infusion, 125mg IV Aminophylline was given to reverse any 
potential
Persantine side effects.
 
IMPRESSION: No ischemic ECG changes. No anginal type symptoms.
Appropriate hemodynamic response to Persantine. Post test 
probability
for ischemia is low. Nuclear report sent separately

CARDIAC PERFUSION REPORT
IMPRESSION:  Unchanged normal myocardial perfusion.  New mildly 
reduced function
with LVEF of 40%.
ECHO ___:
The left atrium and right atrium are normal in cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and global systolic function (LVEF>55%). Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. The aortic root is mildly dilated at 
the sinus level. The aortic arch is mildly dilated. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. The tricuspid valve 
leaflets are mildly thickened. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality due to body habitus. Mild 
symmetric LVH. Left ventricular systolic function is probably 
normal, a focal wall motion abnormality cannot be excluded. The 
right ventricle is not well seen. Mild aortic regurgitation. 
Normal pulmonary artery systolic pressure. 

Compared with the prior study (images reviewed) of ___, 
the findings are similar. 
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of HTN and T2DM who 
presented with chest pain, initally thought to have acute 
systolic CHF based on prior MIBI EF of 40%, however after echo 
appears to have no acute change in cardiac function.

# Chest Pain: Pt vague chest pain that is worse with palpation 
and not specifically related to exertion, patient has been 
reporting similar chest pain for the last several weeks and has 
been evaluated by cardiology several times in the past without 
finding of macrovascular coronary artery disease or ischemia. 
Upon this presentaiton to the ED patient had negative troponins 
and no EKG changes.  Patient was initially admitted by the ED to 
observation for a stress test, but due to dizziness and fatigue 
was not able to complete his exam which was converted to a 
stress MIBI.  The radionucleotide exam suggested an EF of 40% 
which was reduced from an ECHO study several years prior and 
patient was admitted for evaluation of newly depressed EF.  
Diuresis was initiated in the emergency department though no 
findings of volume overload on exam, lab studies, history or 
imaging could be ascertained.  Diuresis was held after patient 
was admitted to cardiology and an ECHO cardiogram was performed 
which did not show a significant change from prior.  The 
patient's chest pain was not felt to be related to ischemia or 
macrovascular disease nor was it felt to be caused by a primary 
pulmonary process.  It was very easily reproducible to palpation 
of the left pectoralis muscle and by maneuvers manipulating the 
shoulder gertale.   There was no indication for cardiac cath 
based on the perfusion study performed in the emergency 
department, patient was continued on home aspirin and ___, 
recent lipid profile did not suggest statin therapy was 
indicated at this time.  As patient was established on a 
narcotics contract and pain requirements did not exceed his 
outpatient percocet dosing no increases in his narcotics were 
made patient was prescribed Naproxen for pain control.  
.
-# HTN: mildly elevated to 140s, patient was continued on home 
diltizem and ___.
.
# T2DM: On metformin at home. Last A1C 6.8% in ___. patient 
was continued on metformin at the time of discharge.
-
.
# LIPIDS: LDL of 98 with normal HDL in ___ of this year, 
statin therapy not currently indicated.
.
# BPH: cont tamsulosin and oxybutynin
.
Transitional Issues: 
-PFTS as out pt if respiratory symptoms continue to limit 
exercise capacity.
-recommend weight loss and exercise as an out patient
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from webOMR.
1. Valsartan 320 mg PO DAILY 
2. Pregabalin 75 mg PO BID 
3. methotrexate sodium *NF* 15 mg Oral weekly 
4. Lidocaine 5% Patch 1 PTCH TD DAILY 
12 hours on, 12 hours off daily 
5. Phenazopyridine 100 mg PO TID:PRN urinary burning 
6. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Docusate Sodium 100 mg PO DAILY 
9. Oxybutynin 10 mg PO DAILY:PRN bladder spasm 
10. Multivitamins 1 TAB PO DAILY 
11. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO TID 
12. vardenafil *NF* 20 mg Oral daily: PRN ED 
13. Aspirin 81 mg PO DAILY 
14. Tamsulosin 0.4 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Diltiazem Extended-Release 120 mg PO DAILY 
3. Docusate Sodium 100 mg PO DAILY 
4. Lidocaine 5% Patch 1 PTCH TD DAILY 
12 hours on, 12 hours off daily 
5. Multivitamins 1 TAB PO DAILY 
6. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO TID 
7. Phenazopyridine 100 mg PO TID:PRN urinary burning 
8. Pregabalin 75 mg PO BID 
9. Tamsulosin 0.4 mg PO DAILY 
10. Valsartan 320 mg PO DAILY 
11. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
12. methotrexate sodium *NF* 15 mg ORAL WEEKLY 
13. Oxybutynin 10 mg PO DAILY:PRN bladder spasm 
14. vardenafil *NF* 20 mg Oral daily: PRN ED 
15. Naproxen 500 mg PO Q8H 
RX *naproxen 500 mg 1 tablet(s) by mouth every 8 hours Disp #*42 
Tablet Refills:*0
16. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
RX *albuterol sulfate 90 mcg ___ puffs inhaled every 4 hours 
Disp #*1 Inhaler Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Musculoskeletal chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you while you were in the 
hospital.  You were admitted for evaluation of your chest pain 
and shortness of breath.  You underwent an extensive cardiac and 
pulmonary work up and no dangerous causes of your pain.  You 
were given anti-inflammatories to help control this pain and 
discharged to follow up with your primary care doctor if you 
continue to have pain.
 
Followup Instructions:
___